US07960365B2
To a stirred solution of 4-bromo-2-chloro-acetophenone (4.66 g, 20 mmol) in methanol (50 ml) under nitrogen atmosphere was added ammonium acetate (29 g, 0.4 mol) and sodium cyanoborohydride (1.21 g, 20 mmol). The reaction mixture was stirred at ambient temperature for 10 days. The solvent was evaporated and the residue partitioned between dichloromethane and aqueous sodium carbonate solution. The organic phase was dried over anhydrous sodium sulfate and the solvent evaporated. The residue was dissolved in diethyl ether and treated with 2M Hydrogen chloride in diethyl ether The resulting precipitate was filtered and dried to give 1-(4-bromo-2-chloro-phenyl)-ethylamine hydrochloride (3.2 g). A mixture of 1-(4-bromo-2-chloro-phenyl)-ethylamine hydrochloride (0.25 g, 1.07 mmol), 5-fluoro-2-methoxyphenyl boronic acid (0.364 g, 2.14 mmol), palladium acetate (0.005 g, 0.021 mmol) in water (4 ml) was heated in a microwave oven at 190° C. for 4 min. The mixture was added to a SCX column (eluted with 1:1 dichloromethane/methanol then 10% 7M ammonia/methanol) and solvent evaporated to give 1-(3-chloro-5′-fluro-2′-methoxy-biphenyl-4-yl)-ethylamine (0.266 g). The title compound was prepared in a similar manner to N-(5′-fluoro-2,2′-dimethoxy-biphenyl-4-ylmethyl)-4-methoxy-benzenesulfonamide (Example 6) using 1-(3-chloro-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine and 2-chloro-4-cyanobenzene sulfonyl chloride instead of 4-methoxybenzene sulfonyl chloride: 1H NMR (400 MHz, DMSO-d6): δ 9.1 (d 1H), 8.1 (s, 1H), 7.9 (d, 1H), 7.8 (d, 1H), 7.5 (d, 1H), 7.3 (d, 2H), 7.2 (m, 1H), 7-7.18 (m, 2H), 4.9 (m, 1H), 3.8 (s, 3H), 1.4 (d, 3H) ppm. MS (ESI) m/z: value [M+H]+.

reactant | 1-(4-bromo-2-chloro-phenyl)-ethylamine hydrochloride | 1.07 mmol, 0.25 g | Cl.BrC1=CC(=C(C=C1)C(C)N)Cl
reactant | 5-fluoro-2-methoxyphenyl boronic acid | 2.14 mmol, 0.364 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
solvent | water | 4 ml | O | H2O
catalyst | palladium acetate | 0.021 mmol, 0.005 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3-chloro-5′-fluro-2′-methoxy-biphenyl-4-yl)-ethylamine | 0.266 g | ClC=1C=C(C=CC1C(C)N)C1=C(C=CC(=C1)F)OC | C15H15ClFNO
